US06610701B2
Hydrogen chloride gas was bubbled through a 0° C. solution of tert-butyl 2-(1H-pyrazol-3-yl)benzylcarbamate (60 mg, 0.220 mmol) in ethyl acetate (5 ml) for 2 min and stirred for 40 min. A precipitate formed, and the suspension was concentrated in vacuo to give 2-(1H-pyrazol-3-yl)-benzylamine hydrochloride salt; MS (ES+) M+1 174.1 for C10H11N3.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 2-(1H-pyrazol-3-yl)benzylcarbamate | 0.220 mmol, 60 mg | N1N=C(C=C1)C1=C(CNC(OC(C)(C)C)=O)C=CC=C1 | C15H19N3O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-(1H-pyrazol-3-yl)-benzylamine hydrochloride salt | Cl.N1N=C(C=C1)C1=C(CN)C=CC=C1 | InChI=1S/C10H11N3.ClH/c11-7-8-3-1-2-4-9(8)10-5-6-12-13-10;/h1-6H,7,11H2,(H,12,13);1H
